US07737167B2
N-(Benzimidazol-2-yl)-4-chlorobenzhydrylamine
The title compound was prepared from 2-chlorobenzimidazole and 4-chlorobenzhydrylamine HCl by Procedure A. The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 180-184° C.). MS(ES+)m/z 334 ([M+1]+, 100). 1NMR (DMSO-d6) δ 6.18 (d, 1H), 6.80-6.90 (m, 2H), 7.08-7.14 (m, 2H), 7.20-7.40 (m, 9H), 7.66 (d, 1 H), 10.6 (s, 1 H).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-chlorobenzhydrylamine HCl | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
product | N-(Benzimidazol-2-yl)-4-chlorobenzhydrylamine | N1=C(NC2=C1C=CC=C2)NC(C2=CC=C(C=C2)Cl)C2=CC=CC=C2 | C20H16ClN3
